US04694080
3-[(2-Benzyl)tetrazol-5-yl]-2-ethyl-4-hydroxy-1,2-benzothiazine 1,1-Dioxide
A mixture of 2-ethyl-4-hydroxy-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide (0.5 g), potassium carbonate (0.120 g) and benzylbromide (0.21 ml) in dimethylformamide was stirred at room temperature for 16 hours, then poured into water (30 ml). The resulting solids were filtered off, washed with water and dried in vacuo to give crude product (0.638 g), which was recrystallized from toluene to afford the title compound (0.457 g, 70%).

reactant | 2-ethyl-4-hydroxy-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide | 0.5 g | C(C)N1S(C2=C(C(=C1C1=NN=NN1)O)C=CC=C2)(=O)=O | C11H11N5O3S
reactant | potassium carbonate | 0.120 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 0.21 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[(2-Benzyl)tetrazol-5-yl]-2-ethyl-4-hydroxy-1,2-benzothiazine 1,1-Dioxide | 0.457 g, 70% | C(C1=CC=CC=C1)N1N=C(N=N1)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)CC | C18H17N5O3S
